US07384934B2
9-Fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine, hydrochloride
Combine 2-(5-fluoro-2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile (2.15 g, 6.87 mmol) and Tin(II) chloride, dihydrate (4.65 g, 20.6 mmol) in a mixed solvent of EtOH (25 mL) and 5.0 N HCl (25 mL), heat the suspension to reflux for 3 hours, cool to RT. Suction filtration obtains the title compound 1.73 g (yield 78%) as a yellow solid by. Mass spectrum: ACPI (m/e): 284((M+1-HCl); 1H NMR (300 MHz, DMSO-d6) δ 11.46 (br, 1H), 10.02 (br, 1H), 9.02 (br, 2H), 7.90-7.87 (m, 1H), 7.71-7.68 (m, 1H), 7.46-7.40 (m, 1H), 7.33-7.28 (m, 1H), 7.12-6.94 (m, 2H), 6.85-6.81(m, 1H).

reactant | 2-(5-fluoro-2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile | 6.87 mmol, 2.15 g | FC=1C=CC(=C(C1)NC1=C(C2=C(S1)C=CC=C2)C#N)[N+](=O)[O-] | C15H8FN3O2S
reactant | Tin(II) chloride, dihydrate | 20.6 mmol, 4.65 g | O.O.[Sn](Cl)Cl
reactant | HCl | 5.0 N, 25 mL | Cl | ClH
solvent | EtOH | 25 mL | CCO | C2H6O
product | 9-Fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine, hydrochloride | 1.73 g, yield 78% | Cl.FC=1C=CC2=C(NC=3SC4=C(C3C(=N2)N)C=CC=C4)C1 | InChI=1S/C15H10FN3S.ClH/c16-8-5-6-10-11(7-8)19-15-13(14(17)18-10)9-3-1-2-4-12(9)20-15;/h1-7,19H,(H2,17,18);1H
